US08445530B2
5-Chloro-2,3-bis-chloromethyl-thiophene
2,3-Bis-chloromethyl-thiophene (500 mg, 2.76 mmol) was dissolved in acetic acid (10 ml). Sulfuryl chloride (372 mg, 2.76 mmol) was added and the mixture was stirred for 1 h at room temperature. The mixture was partitioned between EA, water and an excess of solid sodium hydrogencarbonate and the aqueous phase extracted with EA. The combined organic extracts were dried over magnesium sulfate, filtered and evaporated to dryness to give 240 mg of the title compound.

reactant | 2,3-Bis-chloromethyl-thiophene | 2.76 mmol, 500 mg | ClCC=1SC=CC1CCl | C6H6Cl2S
reactant | Sulfuryl chloride | 2.76 mmol, 372 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-Chloro-2,3-bis-chloromethyl-thiophene | 240 mg | ClC1=CC(=C(S1)CCl)CCl | C6H5Cl3S
